US04155909
2-methyl-6-phenylpyridine, obtainable from 1,3-pentadiene and benzonitirle via the procedure of Janz and McColloch [J. Am. Chem. Soc., 77 (1955), 3413] is treated with N-bromosuccinimide to give 2-bromomethyl-6-phenylpyridine. The bromomethyl compound is treated with 1-methyl-2-cyanopyrrolidine, and the resulting salt is rearranged using sodium amide in liquid ammonia and decyanated with sodium borohydride in ethanol according to the procedures described in Example 1. The product can be purified by distillation.

reactant | 2-methyl-6-phenylpyridine | CC1=NC(=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | 1,3-pentadiene | C=CC=CC | C5H8
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 2-bromomethyl-6-phenylpyridine | BrCC1=NC(=CC=C1)C1=CC=CC=C1 | C12H10BrN
